US07989634B2
Intermediate 62: (3S)-1-benzyl-3-[(2,4-difluorophenyl)amino]pyrrolidine
To a solution of (3S)-1-benzyl-3-aminopyrrolidine (0.20 g, 1.1 mmol), tris-(2,4-difluorophenyl)bismuth (0.64 g, 1.2 mmol), and TEA (0.280 mL, 2 mmol) in DCM (5 mL) was added Cu(OAc)2 (0.21 g, 1.2 mmol). After being stirred at rt for 24 h, the reaction solution was concentrated in vacuo, and the residue was purified by column chomatography (MeOH/CHCl3=1/25) to give the title compound (150 mg, 46.0%).

reactant | (3S)-1-benzyl-3-aminopyrrolidine | 1.1 mmol, 0.20 g | C(C1=CC=CC=C1)N1C[C@H](CC1)N | C11H16N2
reactant | tris-(2,4-difluorophenyl)bismuth | 1.2 mmol, 0.64 g | FC1=C(C=CC(=C1)F)[Bi](C1=C(C=C(C=C1)F)F)C1=C(C=C(C=C1)F)F
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 1.2 mmol, 0.21 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | (3S)-1-benzyl-3-[(2,4-difluorophenyl)amino]pyrrolidine | 150 mg, 46.0% | C(C1=CC=CC=C1)N1C[C@H](CC1)NC1=C(C=C(C=C1)F)F | C17H18F2N2
